US04014920
26.3 g (0.1 mol) of p-acetoxy-α-acetylaminocinnamic acid, 50 ml of quinoline and 2 g of copper powder are heated to 160°-170°C for 3 hours, in the course of which carbon dioxide is evolved. Thereafter, the quinoline is distilled off in vacuo and the residual mass is taken up in ethyl acetate. After filtering off the copper powder, the ethyl acetate solution is extracted with 25 ml of 1 N hydrochloric acid and is then washed with water and sodium bicarbonate solution. The organic phase is dried over sodium sulphate and thereafter the solvent is removed by distillation in vacuo. The resulting oil, on crystallisation from ethyl acetate, yields p-(2-acetylaminovinyl)-acetoxybenzene of melting point 165°-166°C.

reactant | p-acetoxy-α-acetylaminocinnamic acid | 0.1 mol, 26.3 g | C(C)(=O)OC1=CC=C(C=C(C(=O)O)NC(C)=O)C=C1 | C13H13NO5
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | copper | 2 g | [Cu] | Cu
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | p-(2-acetylaminovinyl)-acetoxybenzene | C(C)(=O)NC=CC1=CC=C(C=C1)OC(C)=O | C12H13NO3
